US08871753B2
Step B: tert-Butyl [2-((Z)-2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}vinyl)pyridin-4-yl]carbamate
To a solution of tert-butyl {2-[(Z)-2-(3-aminophenyl)vinyl]pyridin-4-yl}carbamate (50.0 mg, 0.16 mmol) and 2,4,5-trichloropyrimidine (0.019 mL, 0.17 mmol) in N,N-dimethylformamide (0.50 mL) was added potassium carbonate (66.6 mg, 0.48 mmol). The resultant mixture was stirred for 16 hours at room temperature. The reaction was quenched with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with water and brine then dried (Na2SO4), filtered and concentrated to give the desired product as a light brown gum (66 mg, 90%). LCMS for C22H22Cl2N5O2 (M+H)+: m/z=458.0, 460.0.

reactant | tert-butyl {2-[(Z)-2-(3-aminophenyl)vinyl]pyridin-4-yl}carbamate | 0.16 mmol, 50.0 mg | NC=1C=C(C=CC1)\C=C/C1=NC=CC(=C1)NC(OC(C)(C)C)=O | C18H21N3O2
reactant | 2,4,5-trichloropyrimidine | 0.17 mmol, 0.019 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 0.48 mmol, 66.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 0.50 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [2-((Z)-2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}vinyl)pyridin-4-yl]carbamate | 66 mg, 90% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)\C=C/C1=NC=CC(=C1)NC(OC(C)(C)C)=O)Cl | C22H21Cl2N5O2
